US08198269B2
(4) Synthesis of (±)-[(3S*,4R*)-3-amino-3-(2-fluorophenyl)tetrahydropyran-4-yl]methanol
Zinc (11.6 g) was added to a solution of (±)-(3aR*,7aS*)-7a-(2-fluorophenyl)hexahydropyrano[3,4-c]isoxazole (3.95 g) in acetic acid (78.4 ml), and the mixture was stirred at room temperature overnight. The insoluble matter was removed by filtration through celite, and the solvent was evaporated under reduced pressure. An ice-cooled 0.5 N sodium hydroxide solution was added to the residue. The aqueous layer was extracted with ethyl acetate and a mixed solution of ethyl acetate and tetrahydrofuran. The organic layers were combined and washed with brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (3.45 g).

reactant | (±)-(3aR*,7aS*)-7a-(2-fluorophenyl)hexahydropyrano[3,4-c]isoxazole | 3.95 g | FC1=C(C=CC=C1)[C@@]12NOC[C@@H]1CCOC2 | C12H14FNO2
solvent | acetic acid | 78.4 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 11.6 g | [Zn] | Zn
product | (±)-[(3S*,4R*)-3-amino-3-(2-fluorophenyl)tetrahydropyran-4-yl]methanol | 3.45 g | N[C@]1(COCC[C@H]1CO)C1=C(C=CC=C1)F | C12H16FNO2
